US04091033
The process of Example 1 was repeated using 196.2 parts of piperidine in place of the morpholine. The product was the corresponding piperidino enamine which was reacted with benzoquinone in toluene to give 2,3-dihydro-3,3-dimethyl-5-hydroxy-2-piperidino-benzofuran. This was converted to 2,3-dihydro-3,3-dimethyl-2-piperidino-benzofuran-5-yl methanesulphonate and then to 2,3-dihydro-3,3-dimethyl-2-ethoxy-benzofuran-5-yl methane sulphonate as in Example 5.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-3,3-dimethyl-5-hydroxy-2-piperidino-benzofuran | CC1(C(OC2=C1C=C(C=C2)O)N2CCCCC2)C | C15H21NO2
